US06235771B1
To a solution of 6-methoxybenzofuran (16.9 g) in collidine (200 ml) was added lithium iodide (30.5 g), and the mixture was refluxed under argon atmosphere for 1 day and cooled. To the mixture was added 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with 2N hydrochloric acid (5 times) and then washed with water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography to give dark brown oil of 6-hydroxybenzofuran (2.9 g).

reactant | 6-methoxybenzofuran | 16.9 g | COC1=CC2=C(C=CO2)C=C1 | C9H8O2
reactant | lithium iodide | 30.5 g | [I-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | collidine | 200 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | 6-hydroxybenzofuran | 2.9 g | OC1=CC2=C(C=CO2)C=C1 | C8H6O2
